US06019914
5'-Formyl-1,3,3-trimethylspiro[indoline-2,3'-[3H]-naphtho[2,1-b][1,4]oxazine]
A solution of 0.36 g (1 mmol) of 5'-hydroxymethyl-1,3,3-trimethylspiro[indoline-2,3'-[3H]-naphtho[2,1-b][1,4]oxazine] in 30 ml of dichloromethane is added to 0.42 g (1 mmol) of Dess-Martin reactant prepared according to the method published in J. Org. Chem., 1983, 48, 4155, in solution in 60 ml of anhydrous dichloromethane. The mixture is then stirred for 1 hour at ambient temperature. 100 ml of ethyl ether are then added. The solution is then filtered and then evaporated. The product is purified by chromatography on a column of silica (CH2Cl2 eluent).

reactant | 5'-hydroxymethyl-1,3,3-trimethylspiro[indoline-2,3'-[3H]-naphtho[2,1-b][1,4]oxazine] | 1 mmol, 0.36 g | OCC1=CC2=CC=CC=C2C2=C1OC1(C=N2)N(C2=CC=CC=C2C1(C)C)C | C23H22N2O2
reactant | Dess-Martin | 1 mmol, 0.42 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | ethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | 5'-Formyl-1,3,3-trimethylspiro[indoline-2,3'-[3H]-naphtho[2,1-b][1,4]oxazine] | C(=O)C1=CC2=CC=CC=C2C2=C1OC1(C=N2)N(C2=CC=CC=C2C1(C)C)C | C23H20N2O2
